US07910774B2
A solution of lithium hexamethyldisilazide in tetrahydrofuran is cooled to −78° C. and treated with a solution of 15.95 g of (S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester in 100 mL of tetrahydrofuran maintaining the temperature at −78° C. The resulting mixture was stirred for 40 minutes and a mixture of 40 mL of acetone and 7 mL of boron trifluoride diethyl etherate added within 20 minutes. The reaction mixture is stirred for 2.5 hours at −78° C. and 300 mL of a 10% solution of citric acid added and the reaction mixture warmed to room temperature. The layers are separated and the aqueous layer is re-extracted with 300 mL of dichloromethane. The combined organic layers are dried, filtered and the solvent removed to give (S)-4-(1-hydroxy-1-methyl-ethyl)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzylester 1-tert-butyl ester as an oil.

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | (S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 15.95 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C17H21NO5
reactant | boron trifluoride diethyl etherate | 7 mL | B(F)(F)F.CCOCC
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | (S)-4-(1-hydroxy-1-methyl-ethyl)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzylester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1=O)C(C)(C)O)C(=O)OCC1=CC=CC=C1 | C20H27NO6
